US06951935B2
Synthesis of 5-(N-Methyl-N-phenylamino)-10,20-diphenylporphyrin (Table 1, Product 4b)
The general procedure was used to couple 5-bromo-10,20-diphenylporphyrin (54 mg, 0.10 mmol) with N-methylaniline (40 μL, 0.36 mmol), using palladium acetate (1.1 mg, 0.005 mmol) as the palladium precursor, DPEphos (4.0 mg, 0.0075 mmol) as the phosphine ligand and cesium carbonate (45.6 mg, 0.014 mmol) as the base. The reaction was conducted in THF (5 mL) at 68° C. for 16 h. The title compound was isolated by flash column chromatography (silica gel, ethyl acetate:hexanes (v)=1:4) as purple solids (53 mg, 94%). 1H NMR (300 MHz, CDCl3): δ 10.18 (s, 1H), 9.30 (d, J=4.8 Hz, 2H), 9.19 (d, J=4.8 Hz, 2H), 9.00 (d, J=4.8 Hz, 2H), 8.90 (d, J=4.8 Hz, 2H), 8.23 (m, 4H), 7.78 (m, 6H), 7.19 (broad, 2H), 6.73 (broad, 3H), 4.26 (s, 3H), −2.82 (s, 2H). 13C NMR (75 MHz, CDCl3): δ 154.9, 141.6, 134.9, 131.9, 131.7, 131.6, 129.6, 129.1, 128.0, 127.2, 124.2, 119.8, 116.9, 113.9, 105.8, 45.5. IR (film, cm−1): 3303, 3055, 3026, 2875, 2810, 1596, 1498, 1351, 1113, 971, 796, 731. UV-vis (CHCl3, λmax, m): 410, 512, 548, 592. HRMS-EI ([M]+): C39H29N5, 567.2423; found: 567.2419 with an isotope distribution pattern that is same as the calculated one.

reactant | 5-bromo-10,20-diphenylporphyrin | 0.10 mmol, 54 mg | BrC=1C2=CC=C(N2)C(=C2C=CC(C=C3C=CC(=C(C=4C=CC1N4)C4=CC=CC=C4)N3)=N2)C2=CC=CC=C2 | C32H21BrN4
reactant | N-methylaniline | 0.36 mmol, 40 μL | CNC1=CC=CC=C1 | C7H9N
reactant | DPEphos | 0.0075 mmol, 4.0 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3OC4=CC=CC=C4P(C5=CC=CC=C5)C6=CC=CC=C6 | C36H28OP2
reactant | phosphine | P | H3P
reactant | cesium carbonate | 0.014 mmol, 45.6 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
catalyst | palladium acetate | 0.005 mmol, 1.1 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | palladium | [Pd] | Pd
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-(N-Methyl-N-phenylamino)-10,20-diphenylporphyrin | CN(C1=CC=CC=C1)C=1C2=CC=C(N2)C(=C2C=CC(C=C3C=CC(=C(C=4C=CC1N4)C4=CC=CC=C4)N3)=N2)C2=CC=CC=C2 | C39H29N5
